data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_661649_0,[C:1]1([N:6]([H:11])[H:12])([O:7][H:9])[C:2]([C:4]([H:16])([H:17])[H:18])([O:8][H:10])[N:5]1[C:3]([H:13])([H:14])[H:15]>>[C:1](\[C:2]([C:4]([H:16])([H:17])[H:18])([O:7][H:9])[O:8][H:10])(=[N:5]\[C:3]([H:13])([H:14])[H:15])[N:6]([H:11])[H:12],51.0439874999993
MR_106890_0,[C:1]([C:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:6](/[N:5]([H:8])[H:9])[H:10])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[C:4]([C:2]([H:14])([H:15])[H:16])[C:6]([N:5]([H:8])[H:9])([H:10])[O:7]1)([H:11])([H:12])[H:13],37.100937499996576
MR_197633_1,[C:1]([C:3]([H:12])([H:13])[H:18])([C:4]([H:15])([H:16])[H:17])([C:5]([H:14])([H:19])[H:20])[C:6]([C:2](=[O:7])[H:10])([O:8][H:9])[H:11]>>[C:1]([C:3]([H:12])([H:13])[H:18])([C:4]([H:15])([H:16])[H:17])([C:5]([H:14])([H:19])[H:20])[C:6]1([H:11])[C:2]([O:7][H:9])([H:10])[O:8]1,55.32918500002367
MR_49385_0,[C:1]([C:2]([N:5]([H:11])[H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([O:7][H:10])=[O:8])[O:6][H:9]>>[C:1](/[C:2](=[N:5]/[H:12])[H:13])([C:3]([H:15])([H:16])[H:17])([C:4]([O:7][H:10])([O:8][H:11])[H:14])[O:6][H:9],71.21497500000814
MR_343173_1,[C:1](/[C:5]([C:3]([H:18])([H:19])[H:20])=[N:9]/[C:2]([H:15])([H:16])[H:17])(/[C:8](=[C:6](\[C:4]([H:21])([H:22])[H:23])[N:7]([H:10])[H:11])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:5]([C:3]([H:18])([H:19])[H:20])([N:9]([C:2]([H:15])([H:16])[H:17])[H:23])[C:8]1([C:6](=[C:4]([H:21])[H:22])[N:7]([H:10])[H:11])[H:14],35.50771499998845
MR_691494_0,[C:1]1([H:12])([H:13])[C:3]([O:7][H:9])=[C:5]([C:2]([H:14])([H:15])[H:16])[C:4]([N:6]([H:10])[H:11])=[N:8]1>>[C:1]1([H:12])([H:13])[C:3]2([O:7][H:9])[C:5]([C:2]([H:14])([H:15])[H:16])=[C:4]([N:6]([H:10])[H:11])[N:8]12,66.14540250003799
MR_84462_0,[C:1](/[N:6]=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:3]([N:5]([H:8])[H:9])[H:7])([H:10])([H:11])[H:12]>>[C:1]([N:6]([C:4]1([C:2]([H:13])([H:14])[H:15])[N:3]([H:7])[N:5]1[H:8])[H:9])([H:10])([H:11])[H:12],66.7471749999811
MR_307396_0,[C:1]([N:3]([N:4]([O:6][H:8])[H:9])/[C:5](=[N:7]\[C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:5](/[N:7]([C:2]([H:14])([H:15])[H:16])[N:4]([O:6][H:8])[H:9])[H:10])([H:11])([H:12])[H:13],62.35781250000571
MR_122284_1,[C:1]1([C:7]([C:5]([H:18])([H:19])[H:20])[C:6]([C:4]([H:15])([H:16])[H:17])[O:8][H:9])([H:10])[C:2]([H:11])([H:12])[C:3]1([H:13])[H:14]>>[C:1]1([H:10])=[C:7]([C:5]([H:18])([H:19])[H:20])[C@:6]([C:4]([H:15])([H:16])[H:17])([O:8][H:9])[C:3]([H:13])([H:14])[C:2]1([H:11])[H:12],68.37993000003209
MR_109498_0,[C:1](\[N:3]([H:9])[H:10])(=[C:6](\[N:5]([H:13])[H:14])[H:15])[O:8][C:2]([N:4]([H:11])[H:12])=[C:7]([H:16])[H:17]>>[C:1]([N:3]([H:9])[H:10])([C:6]([C:2]([N:4]([H:11])[H:12])=[C:7]([H:16])[H:17])([N:5]([H:13])[H:14])[H:15])=[O:8],47.4220574999768
MR_164627_0,[C@@:1]([C:2]([H:11])([H:12])[H:13])([O:5][H:8])(/[N:7]=[C:4](/[C:3]([H:14])([H:15])[H:16])[O:6][H:9])[H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])([O:5][H:8])=[N:7]/[C@:4]([C:3]([H:14])([H:15])[H:16])([O:6][H:9])[H:10],70.51154750000066
MR_516200_2,[C:1]([C:2]([H:15])([H:16])[H:17])([N:4]([H:11])[H:12])(/[C:6](=[C:5](\[N:3]([O:7][H:8])[H:9])[H:13])[H:14])[H:10]>>[C:1]([C:2]([H:15])([H:16])[H:17])([N:4]([H:11])[H:12])([C:6](/[C:5](=[N:3]/[O:7][H:8])[H:13])([H:9])[H:14])[H:10],62.43185749999711
MR_212438_1,[C:1]([C:2]([O:5][H:8])=[O:6])([N:3]([H:10])[H:11])([C:4](=[O:7])[H:12])[H:9]>>[C:1](=[C:2](\[O:5][H:8])[O:6][C:4](=[O:7])[H:12])(\[N:3]([H:10])[H:11])[H:9],50.68568499997653
MR_460246_1,[C:1](\[N:2]([H:9])[H:10])(=[C:3](/[O:6][C:4](=[C:5]([H:13])[H:14])[H:12])[H:11])[O:7][H:8]>>[C:1]([N:2]([H:9])[H:10])([C:3](=[O:6])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[O:7][H:8],64.23090000002063
MR_131493_0,[C:1]([N:3]([H:8])[H:9])([C:4](/[C:2](=[N:5]/[H:10])[H:12])=[N:6]/[H:11])=[O:7]>>[C:1]([N:3]([H:8])[H:9])([C:4]1([H:12])/[C:2](=[N:5]/[H:10])[N:6]1[H:11])=[O:7],71.5519424999421
MR_530602_1,[C:1]1([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]1([C:4](=[O:7])[H:9])[O:6][C:5](=[O:8])[H:10]>>[C:1]([C:2]([C:5](=[O:8])[H:10])([H:13])[H:14])([C:3]([C:4](=[O:7])[H:9])=[O:6])([H:11])[H:12],64.82137750002792
MR_550005_1,[C@@:1]([N:3]([N:5]([H:13])[H:14])[H:10])([N:4]([H:11])[H:12])([O:7][H:9])/[N:8]=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:15]>>[C:1](\[N:4]([H:11])[H:12])([O:7][H:9])=[N:8]\[C@:6]([C:2]([H:16])([H:17])[H:18])([N:3]([N:5]([H:13])[H:14])[H:10])[H:15],42.678785000038886
MR_493978_1,[C:1](/[C:5](=[C:4](/[N:7]([H:10])[H:11])[C:9](=[C:6]([C:2]([H:18])([H:19])[H:20])[C:3]([H:21])([H:22])[H:23])[H:14])[N:8]([H:12])[H:13])([H:15])([H:16])[H:17]>>[C:1]([C:5]1([N:8]([H:12])[H:13])[C:4]([N:7]([H:10])[H:11])=[C:9]([H:14])[C:6]1([C:2]([H:18])([H:19])[H:20])[C:3]([H:21])([H:22])[H:23])([H:15])([H:16])[H:17],38.655882499994334
MR_596269_1,[N:1]([N:2]([C:5](=[O:7])[H:12])[H:9])([C:3]([N:4]([H:10])[H:11])=[C:6]([H:13])[H:14])[H:8]>>[N:1](/[N:2]=[C:5](/[O:7][H:9])[H:12])([C:3]([N:4]([H:10])[H:11])=[C:6]([H:13])[H:14])[H:8],50.16988000003039
